US03931235
3-tert.-Butylsulfinyl-4-hydroxy-6-methyl-2-pyrone
Hydrogen peroxide (30%, 5.29 g., 0.467 mole) was added in one portion to a solution of 10.0 g. (0.0467 mole) of 3-tert.-butylthio-4-hydroxy-6-methyl-2-pyrone in 85 ml. of glacial acetic acid. The solution was allowed to stand at room temperature for 66 hours and then was poured into ice water, resulting in the precipitation of the pure product as 8.9 g. (83 percent) of white crystals, m.p. 119°C.

reactant | Hydrogen peroxide | 0.467 mole, 5.29 g | OO | H2O2
reactant | 3-tert.-butylthio-4-hydroxy-6-methyl-2-pyrone | 0.0467 mole | C(C)(C)(C)SC=1C(OC(=CC1O)C)=O | C10H14O3S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-tert.-Butylsulfinyl-4-hydroxy-6-methyl-2-pyrone | C(C)(C)(C)S(=O)C=1C(OC(=CC1O)C)=O | C10H14O4S
